US09056859B2
A solution of 2-amino-4-bromobenzoic acid (500 mg, 2.3 mmol) in 20 mL of Et2O was cooled to 0° C. by ice water, and a solution of CH2N2 (145 mg, 3.5 mmol) was added. The reaction was warmed to r.t and stirred for 12 hours. The reaction mixture was concentrated to give methyl 2-amino-4-bromobenzoate 1H-NMR (400 MHz, CDCl3) δ 11.45 (s, 1H), 7.95-8.05 (in, 2H), 7.72 (d, J=8.0 Hz, 1H), 3.31 (s, 3H).

reactant | 2-amino-4-bromobenzoic acid | 2.3 mmol, 500 mg | NC1=C(C(=O)O)C=CC(=C1)Br | C7H6BrNO2
reactant | Et2O | 20 mL | CCOCC | C4H10O
product | methyl 2-amino-4-bromobenzoate | NC1=C(C(=O)OC)C=CC(=C1)Br | C8H8BrNO2
